US05128355
Part C: Preparation of 1-(4-Aminobenzyl)-2-butyl-4,5-dicyanoimidazole
A mixture of 2-butyl-4,5-dicyano-1-(4-nitrobenzyl)imidazole (2.00 g, 6.5 mmol, 1 eq), tin dichloride dihydrate (7.30 g, 32.3 mmol, 5 eq) and ethanol (13 mL) was stirred and heated at 70° for 50 minutes. The reaction was terminated by pouring the mixture onto ice and adjusting the pH to 8 with saturated aqueous NaHCO3. The aqueous mixture was extracted with ethyl acetate (3×100 mL) and the organic layers were dried (MgSO4) and concentrated to give a thick amber oil. This oil was flash chromatographed over silica gel in 75:25 to 70:30 hexane/ethyl acetate yielding 330 mg of yellow crystals; m.p. 99.0°-103.5°. NMR (200 MHz, CDCl3) δ 6.97 (d, 2H, J=10Hz); 6.68 (d, 2H, J=10Hz); 5.10 (s, 2H); 2.69 (t, 2H, J=7Hz); 1.72 (t of t, 2H, J=7,7Hz); 1.38 (t of q, 2H, J=7,7Hz); 0.91 (t, 3H, J=7Hz). Mass Calcd. for C16H17N5 :279.1483. Found: 279.1489.

reactant | 2-butyl-4,5-dicyano-1-(4-nitrobenzyl)imidazole | 6.5 mmol, 2.00 g, 1 eq | C(CCC)C=1N(C(=C(N1)C#N)C#N)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N5O2
reactant | tin dichloride dihydrate | 32.3 mmol, 7.30 g, 5 eq | O.O.[Sn](Cl)Cl
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | 1-(4-Aminobenzyl)-2-butyl-4,5-dicyanoimidazole | NC1=CC=C(CN2C(=NC(=C2C#N)C#N)CCCC)C=C1 | C16H17N5
